US09193741B2
Synthesis of 5-amino-2-[1-(4-fluorophenyl)propyl]-7-(4-[2-(4-chlorophenoxy)acetyl]piperazin-1-yl)thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-(4-fluorobenzyl)-7-methylsulfanylthiazolo[5,4-d]pyrimidine (100 mg, 0.33 mmol) in DMSO (1.5 ml) was added sodium hydroxide (2N, 171 μL) and ethyl iodide (0.34 mmol). The reaction mixture was stirred at room temperature for 16 hours whereupon the mixture was extracted with ethyl acetate and brine. The organic phase was dried over magnesium sulfate and concentrated by evaporation in vacuo. The resulting residue was dissolved in dichloromethane (3 ml), cooled to 0° C. and m-chloroperoxybenzoic acid (0.81 mmol) was added. The reaction mixture was stirred at room temperature for 7 hours. The mixture was first extracted with a saturated sodium bicarbonate solution, then with brine. The combined organic phases were dried over magnesium sulfate. After evaporating the solvents in vacuo, the residue was dissolved again in dichloromethane (3 ml) and piperazine (3.3 mmol) was added. The reaction mixture was stirred at room temperature for 16 hours whereupon the mixture was extracted with brine. The organic phase was dried over magnesium sulfate and evaporated in vacuo. The crude residue was reacted at room temperature for 16 hours with 4-chlorophenoxyacetyl chloride (0.35 mmol) in the presence of diisopropylethylamine (0.72 mmol, 119 μL). After removing the solvent in vacuo, the crude mixture was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 1.5% CH3OH in CH2Cl2), yielding the pure title compound (30 mg) which was characterized by its mass spectrum: MS m/z (%): 541 ([M+H]+, 100).

reactant | 5-amino-2-(4-fluorobenzyl)-7-methylsulfanylthiazolo[5,4-d]pyrimidine | 0.33 mmol, 100 mg | NC=1N=C(C2=C(N1)SC(=N2)CC2=CC=C(C=C2)F)SC | C13H11FN4S2
reactant | sodium hydroxide | 2N, 171 μL | [OH-].[Na+]
reactant | ethyl iodide | 0.34 mmol | C(C)I | C2H5I
reactant | m-chloroperoxybenzoic acid | 0.81 mmol | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | piperazine | 3.3 mmol | N1CCNCC1 | C4H10N2
reactant | 4-chlorophenoxyacetyl chloride | 0.35 mmol | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
reactant | diisopropylethylamine | 0.72 mmol, 119 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
product | 5-amino-2-[1-(4-fluorophenyl)propyl]-7-(4-[2-(4-chlorophenoxy)acetyl]piperazin-1-yl)thiazolo[5,4-d]pyrimidine | 30 mg | NC=1N=C(C2=C(N1)SC(=N2)C(CC)C2=CC=C(C=C2)F)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C26H26ClFN6O2S
